US07781428B2
(±)-(3SR,3aRS)-benzyl 2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate
The title compound was prepared according to Method E from (±)-(3SR,3aRS)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid, Example 15 and benzyl alcohol. Yellow solid, 193 mg. ES-MS m/z 510 (M+H).

reactant | (±)-(3SR,3aRS)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CCC2C1C1CCCC1)C=C(C=C3)C(=O)O | C24H22ClN3O2
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
product | (±)-(3SR,3aRS)-benzyl 2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CCC2C1C1CCCC1)C=C(C=C3)C(=O)OCC3=CC=CC=C3 | C31H28ClN3O2
